*LM335, LM235, LM135
*
.subckt lm335 A K ADJ T
R1 FB1 A 13.8k
R2 K FB 15.6k
R3 FB1 ADJ 30k
G1 K1 A VT FB -2
R5 VT A 1
B1 A VT I=abs((V(T)+273.15)*0.01*14.4k/(14.4k+15.6k))
R6 ADJ A 10G
C2 FB A 60p
C3 K FB 20p
R7 K ADJ 10G
R10 T A 1G
R11 FB FB1 600
D3 A K DD1
D4 N001 K1 DD1
R12 K1 A 10k
D5 K N001 DD1
D1 A K1 DD1
.model DD1 D(Is=1e-11 Cjo=10p RS=10)
.ends lm335

.subckt lm235 A K ADJ T
R1 FB1 A 13.8k
R2 K FB 15.6k
R3 FB1 ADJ 30k
G1 K1 A VT FB -2
R5 VT A 1
B1 A VT I=abs((V(T)+273.15)*0.01*14.4k/(14.4k+15.6k))
R6 ADJ A 10G
C2 FB A 60p
C3 K FB 20p
R7 K ADJ 10G
R10 T A 1G
R11 FB FB1 600
D3 A K DD1
D4 N001 K1 DD1
R12 K1 A 10k
D5 K N001 DD1
D1 A K1 DD1
.model DD1 D(Is=1e-11 Cjo=10p RS=10)
.ends lm235

.subckt lm135 A K ADJ T
R1 FB1 A 13.8k
R2 K FB 15.6k
R3 FB1 ADJ 30k
G1 K1 A VT FB -2
R5 VT A 1
B1 A VT I=abs((V(T)+273.15)*0.01*14.4k/(14.4k+15.6k))
R6 ADJ A 10G
C2 FB A 60p
C3 K FB 20p
R7 K ADJ 10G
R10 T A 1G
R11 FB FB1 600
D3 A K DD1
D4 N001 K1 DD1
R12 K1 A 10k
D5 K N001 DD1
D1 A K1 DD1
.model DD1 D(Is=1e-11 Cjo=10p RS=10)
.ends lm135
